US08110687B2
To a solution of dimethyl 5-tert-butylisophthalate (93.3 g, 0.373 mol) in MeOH (610 mL) was added a solution of sodium hydroxide (14.9 g, 0.373 mol) in water (41 mL) at 25 ° C. The mixture was allowed to stir at this temperature for 4 h and then concentrated. The residue was suspended in 1M H2SO4 and filtered. The solid was washed with water and dried under vacuum to give 3-tert-butyl-5-(methoxycarbonyl)benzoic acid (92 g) as a white solid which was used without purification. 1H NMR (400 MHz, d6-DMSO) δ: 8.35 (s, 1H), 8.20 (m, 2H), 3.85 (s,3H), and 1.30 (s, 9H). LCMS: ES− 235.4.

reactant | dimethyl 5-tert-butylisophthalate | 0.373 mol, 93.3 g | C(C)(C)(C)C=1C=C(C=C(C(=O)OC)C1)C(=O)OC | C14H18O4
reactant | sodium hydroxide | 0.373 mol, 14.9 g | [OH-].[Na+]
solvent | MeOH | 610 mL | CO | CH4O
solvent | water | 41 mL | O | H2O
product | 3-tert-butyl-5-(methoxycarbonyl)benzoic acid | 92 g | C(C)(C)(C)C=1C=C(C(=O)O)C=C(C1)C(=O)OC | C13H16O4
